US04110457
The starting material is prepared as follows: The mixture of 7.5 g of N-[2-(4-benzyloxyphenyl)-ethyl]-3,3-diphenylpropylamine, 125 ml of ethanol and 0.25 g of 10% palladium on charcoal is shaken under 3 atmospheres of hydrogen for 20 hours. 4.5 g of fresh catalyst are added and hydrogenolysis continued at 3 atmospheres for 70 hours. The mixture is filtered and evaporated to afford the N-[2-(4-hydroxyphenyl)-ethyl]-3,3-diphenylpropylamine of sufficient purity.

reactant | N-[2-(4-benzyloxyphenyl)-ethyl]-3,3-diphenylpropylamine | 7.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCNCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C30H31NO
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.25 g | [Pd] | Pd
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | N-[2-(4-hydroxyphenyl)-ethyl]-3,3-diphenylpropylamine | OC1=CC=C(C=C1)CCNCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C23H25NO
